US04882276
A column (inside diameter: 1.8 cm, length: 12 cm) was packed with 2,000 units of immobilized acetate kinase, 200 units of immobilized adenylate kinase and 10 units of immobilized acetyl CoA synthetase which were obtained by the same methods as in Example 11, and 4 mM of AMP, 1.0 mM of ATP (25% based on the concentration of AMP), 25 mM of acetyl phosphate, 2.5 mM of potassium acetate and 2.5 mM of reduction type CoA lithium salt which were dissolved in a 100 mM imidazole hydrochloride buffer solution containing 10 mM magnesium chloride were fed thereto at a flow rate of 50 ml/hour. The reaction temperature in the column was kept at 37° C. AMP was separated from the solution eluted from the column by the same method as in Example 1 and it was sent back to the inlet for substrates. After 40 minutes from the initiation of the reaction, the formed acetyl CoA became 1.6 mM, and thereafter a stabilized state was kept over 15 hours.

reactant | acetate | C(C)(=O)[O-]
reactant | adenylate | C1=NC2=C(C(=N1)N)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O | C10H14N5O7P
reactant | acetyl CoA | C(C)(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O | C23H38N7O17P3S
product | ATP | 1.0 mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
